US07759373B2
In acetonitrile (80 ml) were dissolved 2,2-dichlorobutanal (16.2 g) and 4-fluorobenzaldehyde (14.9 g). To the solution was added dropwise 28% aqueous ammonia (135 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 4 days. Water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was crystallized from methanol-diethyl ether to obtain 4-ethyl-2-(4-fluorophenyl)imidazole (9.36 g).

reactant | 2,2-dichlorobutanal | 16.2 g | ClC(C=O)(CC)Cl | C4H6Cl2O
reactant | 4-fluorobenzaldehyde | 14.9 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonia | 135 ml | N | H3N
reactant | Water | O | H2O
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 4-ethyl-2-(4-fluorophenyl)imidazole | 9.36 g | C(C)C=1N=C(NC1)C1=CC=C(C=C1)F | C11H11FN2
